US07119122B2
4-Chloro-2,5-difluorobenzonitrile (0.45 g, 2.6 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.39 g, 2.6 mmol) and cesium carbonate (0.84 g, 2.6 mmol) were heated with stirring in dry DMF (5 mL) at 50° C. for 18 h. The reaction mixture was cooled, poured into 0.1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 0.1N sodium hydroxide solution (1×), water (2×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo, and purified by chromatography to yield 4-chloro-5-fluoro-2-(3-formyl-2-methoxyphenoxy)benzonitrile (0.33 g, 42%) as a pale yellow solid.

reactant | 4-Chloro-2,5-difluorobenzonitrile | 2.6 mmol, 0.45 g | ClC1=CC(=C(C#N)C=C1F)F | C7H2ClF2N
reactant | 3-hydroxy-2-methoxybenzaldehyde | 2.6 mmol, 0.39 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 2.6 mmol, 0.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-5-fluoro-2-(3-formyl-2-methoxyphenoxy)benzonitrile | 0.33 g, 42% | ClC1=CC(=C(C#N)C=C1F)OC1=C(C(=CC=C1)C=O)OC | C15H9ClFNO3
